US09422271B2
A mixture of tert-butyl 2-(5-(4-bromo-5-chloropyrimidin-2-yl)thiophen-2-ylsulfonyl)hydrazinecarboxylate (179 mg, 0.38 mmol, 1.0 eq) and 5-cyclopropyl-1H-pyrazol-3-amine (92 mg, 0.76 mmol, 2.0 equiv.) in n-butanol was refluxed for 2 h, The reaction was cooled down and extracted with EA and the combined layers were dried (Na2SO4), filtered and purified by silica gel chromatography (EA/PE 1:2) to afford tert-butyl 2-(5-(5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophen-2-ylsulfonyl)hydrazinecarboxylate (23 mg, 12%). LC-MS (m/z)=512 [M+H]+.

reactant | tert-butyl 2-(5-(4-bromo-5-chloropyrimidin-2-yl)thiophen-2-ylsulfonyl)hydrazinecarboxylate | 0.38 mmol, 179 mg, 1.0 eq | BrC1=NC(=NC=C1Cl)C1=CC=C(S1)S(=O)(=O)NNC(=O)OC(C)(C)C | C13H14BrClN4O4S2
reactant | 5-cyclopropyl-1H-pyrazol-3-amine | 0.76 mmol, 92 mg, 2.0 equiv. | C1(CC1)C1=CC(=NN1)N | C6H9N3
solvent | n-butanol | C(CCC)O | C4H10O
product | tert-butyl 2-(5-(5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophen-2-ylsulfonyl)hydrazinecarboxylate | 23 mg, 12% | ClC=1C(=NC(=NC1)C1=CC=C(S1)S(=O)(=O)NNC(=O)OC(C)(C)C)NC1=NNC(=C1)C1CC1 | C19H22ClN7O4S2
